US04948809
(a) 4-Chlorobenzenesulphonic acid-[4-(1-chloropropyl)-phenethylamide].
A mixture of 26.7 g. (75.4 mmole) 4-chlorobenzenesulphonic acid-4-(1-hydroxypropyl)-phenethyamide], 200 ml. methylene chloride and 100 ml. concentrated hydrochloric acid is vigorously stirred for 1 hour, then diluted with water and the methylene chloride phase is separated off. It is washed with water and sodium bicarbonate solution, dried with anhydrous sodium sulphate and evaporated. Yield quantitative; m.p. 90°-91° C.

reactant | 4-chlorobenzenesulphonic acid-4-(1-hydroxypropyl)-phenethyamide | 75.4 mmole | OC(CC)C1=CC=C(CCNS(=O)(=O)C2=CC=C(C=C2)Cl)C=C1 | C17H20ClNO3S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-Chlorobenzenesulphonic acid-[4-(1-chloropropyl)-phenethylamide] | ClC(CC)C1=CC=C(CCNS(=O)(=O)C2=CC=C(C=C2)Cl)C=C1 | C17H19Cl2NO2S
